US05883106
A. 4-Cyano-4-(3,5-difluorophenyl)-3,4,5,6-tetrahydro-2H-pyran
To a solution of 3,5-difluorophenylacetonitrile (24.2 g, 0.158 mol) in DMSO (240 ml) was added sodium hydride (60% w/w dispersion in mineral oil, 13.3 g, 0.332 mol) portionwise over 10 min. The reaction mixture was stirred for 40 min at room temperature and then bis-(2-chloroethyl)ether (24.9 g, 0.174 mol) was added slowly and stirring continued for an additional 1 h. The reaction mixture was poured into water (500 ml) and the mixture was extracted with an ethyl acetate-toluene mixture (2:1 v/v, 400 ml×3). The combined extracts were washed with 2N aqueous HCl (300 ml), water (300 ml) and brine (300 ml), dried (MgSO4) and concentrated to 100 ml. The precipitated solids were collected and washed with cold Et2O (50 ml) to afford 26.3 g (71%) of the titled compound as off white solids.

reactant | 3,5-difluorophenylacetonitrile | 0.158 mol, 24.2 g | FC=1C=C(C=C(C1)F)CC#N | C8H5F2N
reactant | sodium hydride | 0.332 mol, 13.3 g | [H-].[Na+]
reactant | bis-(2-chloroethyl)ether | 0.174 mol, 24.9 g | ClCCOCCCl | C4H8Cl2O
reactant | water | 500 ml | O | H2O
solvent | DMSO | 240 ml | CS(=O)C | C2H6OS
product | 4-Cyano-4-(3,5-difluorophenyl)-3,4,5,6-tetrahydro-2H-pyran | 26.3 g, 71% | C(#N)C1(CCOCC1)C1=CC(=CC(=C1)F)F | C12H11F2NO
